US06399627B1
To a solution of ethyl 2-oxocyclopentane carboxylate (1.56 g, 10 mmol) in 20 ml anhydrous dichloromethane was added triethylamine (1.06 g, 10.5 mmol). Reaction was cooled under argon to −78° C. to which trifluoromethanesulfonic anhydride (2.96 g, 10.5 mmol) was added dropwise via syringe over 5 minutes. Reaction was allowed to warm to room temperature and stirred over night. Next morning the reaction was diluted with 25 ml dichloromethane, organic was washed with 2×50 ml water, 2×50 ml 1N HCl, dried over magnesium sulfate, filtered and concentrated to give ethyl 2-{[(trifluoromethyl)sulfonyl]oxy}-1-cyclopentene-1-carboxylate (2.8 g, 97%) as a light brown oil after drying. H1NMR (CDCl3) δ 1.27-1.56 (t, 3H); 1.97-2.01 (m, 2H); 2.6-2.74 (m, 4H); 4.21-4.26 (m, 2H).

reactant | ethyl 2-oxocyclopentane carboxylate | 10 mmol, 1.56 g | O=C1C(CCC1)C(=O)OCC | C8H12O3
reactant | triethylamine | 10.5 mmol, 1.06 g | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 10.5 mmol, 2.96 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | ethyl 2-{[(trifluoromethyl)sulfonyl]oxy}-1-cyclopentene-1-carboxylate | 2.8 g, 97% | FC(S(=O)(=O)OC1=C(CCC1)C(=O)OCC)(F)F | C9H11F3O5S
